### ISSUE TITLE
`diagnostic_messages` truncated when called after `file_outline`

### ISSUE THREAD

**Issue by winstonyin** [oOo0oOo/lean-lsp-mcp#97]
Whenever `file_outline` is called right before `diagnostic_messages`, the latter's output is truncated (often completely empty). I'm attaching a test script `test_each_tool_before_diagnostics.py` that illustrates this problem, along with three Lean files. The test script is placed at the root directory of the Lean project (where `lakefile.toml` is). The Lean files `test_basic.lean`, `test_basic2.lean`, and `test_basic3.lean` can be placed at the root directory as well. The output of the script seems to be different depending on the locations of these files (i.e. if you place the Lean files in a subdirectory).

[test_each_tool_before_diagnostics.py](https://github.com/user-attachments/files/24275718/test_each_tool_before_diagnostics.py)

Since I can't attach Lean files here, I'll copy their contents:

`test_basic.lean`
```lean
-- Basic Lean test file without Mathlib imports
-- This file contains various declarations for testing diagnostic_messages

-- Simple definitions that work
def addOne (n : Nat) : Nat := n + 1

def double (n : Nat) : Nat := n + n

-- Theorem with sorry
theorem add_comm (a b : Nat) : a + b = b + a := by
  sorry

-- Theorem that's proven
theorem zero_add (n : Nat) : 0 + n = n := by
  rfl

-- Function with a type error (intentional)
def badFunction (n : Nat) : String := n

-- Theorem with sorry
theorem mul_comm (a b : Nat) : a * b = b * a := by
  sorry

-- Simple inductive type
inductive MyList (α : Type)
  | nil : MyList α
  | cons : α → MyList α → MyList α

-- Function on the inductive type
def myLength {α : Type} : MyList α → Nat
  | MyList.nil => 0
  | MyList.cons _ tail => 1 + myLength tail

-- Theorem about the inductive type with sorry
theorem myLength_nil {α : Type} : myLength (MyList.nil : MyList α) = 0 := by
  sorry

-- Another error: using undefined identifier
def useUndefined : Nat := undefinedIdentifier + 1

-- Theorem that should work
theorem succ_eq_add_one (n : Nat) : Nat.succ n = n + 1 := by
  rfl

-- Theorem with sorry
theorem add_assoc (a b c : Nat) : (a + b) + c = a + (b + c) := by
  sorry
```

test_basic2.lean
```lean
import Mathlib.Data.Real.Archimedean

/-- **Archimedean Property**: If ρ and ε are positive real numbers, then there exists
an integer n such that nε > ρ. -/
theorem archimedean_property (x : ℕ) (ρ ε : ℝ) (hρ : 0 < ρ) (hε : 0 < ε) :
    ∃ n : ℤ, ρ < n * ε := by
  obtain ⟨n, hn⟩ := exists_int_gt (ρ / ε)
  use n
  calc ρ = (ρ / ε) * ε := by field_simp
       _ < n * ε := by exact mul_lt_mul_of_pos_right hn hε
```

test_basic3.lean
```lean
-- Basic Lean test file without Mathlib imports
-- This file contains various declarations for testing diagnostic_messages

-- Simple definitions that work
def addOne (n : Nat) : Nat := n + 1

def double (n : Nat) : Nat := n + n

-- Theorem with sorry
theorem add_comm (a b : Nat) : a + b = b + a := by
  sorry

-- Theorem that's proven
theorem zero_add (n : Nat) : 0 + n = n := by
  rfl

-- Function with a type error (intentional)
def badFunction (n : Nat) : String := n

-- Theorem with sorry
theorem mul_comm (a b : Nat) : a * b = b * a := by
  sorry
```

I'm on `leanprover/lean4:v4.25.0-rc2`, Python packages `lean-lsp-mcp==0.17.0`, `leanclient==0.7.0`, `mcp==1.24.0`.

**Comment by oOo0oOo** [comment]
Thanks a lot for the detailed bug report, it made the fix much easier to find!
I have released a hotfix for this in lean-lsp-mcp 0.17.2
Let me know if this worked.

**Comment by winstonyin** [comment]
Your hotfix worked! Thanks for saving me hours of debugging, on a Sunday no less :)
